US09216975B2
Preparation of 5-hydroxy-2H-benzo[b][1,4]oxazin-3(4H)-one 25
TEA (3.34 ml, 2 equiv.) and after chloroacetyl chloride (1.15 ml, 1.2 equiv.) were added dropwise to a solution of commercially available 2-aminobenzene-1,3-diol (1.5 g, 11.99 mmol) in 20 ml of DMF. After one hours of stirring at room temperature, K2CO3 (3.3 g, 2 equiv.) was added and the reaction was stirred at room temperature overnight. The solvent was evaporated and to the residue water was added. After filtration, the solid material was washed with MeOH and diethyl ether giving 410 mg of a grey solid. Yield=21% 1HNMR (DMSO, 200 MHz) δ 3.47 (1H, bs), 4.47 (2H, s), 6.44 (2H, m), 6.72 (1H, t, J=8 Hz)

reactant | chloroacetyl chloride | 1.15 ml, 1.2 equiv. | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-aminobenzene-1,3-diol | 11.99 mmol, 1.5 g | NC1=C(C=CC=C1O)O | C6H7NO2
reactant | K2CO3 | 3.3 g, 2 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-hydroxy-2H-benzo[b][1,4]oxazin-3(4H)-one | Yield=21% | OC1=CC=CC=2OCC(NC21)=O | C8H7NO3
